US07399759B2
tert-Butyl (E)-3-(4-methyl-2-pyridyl)-2-propenoate
A solution of tert-butyl diethylphosphonoacetate (6.2 g, 24 mmol) in tetrahydrofuran (20 ml) was added dropwise to a mixture of sodium hydride (60% in oil, 1.1 g, 26 mmol) and tetrahydrofuran (120 ml) at 0° C., and the mixture was stirred at the same temperature for 30 minutes. Successively, a solution of 4-methyl-2-pyridinecarbaldehyde (1.5 g, 12 mmol) in tetrahydrofuran (30 ml) was added dropwise to the mixture at 0° C., and the mixture was stirred at room temperature for 1 hr. The reaction mixture was combined with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated. The residue was subjected to a silica gel column chromatography. The fractions eluted with ethylacetate-hexane (1:5, v/v) were collected and concentrated to give the titled compound (1.9 g, 70%).

reactant | tert-butyl diethylphosphonoacetate | 24 mmol, 6.2 g | C(C)OP(=O)(OCC)CC(=O)OC(C)(C)C | C10H21O5P
reactant | sodium hydride | 26 mmol, 1.1 g | [H-].[Na+]
reactant | 4-methyl-2-pyridinecarbaldehyde | 12 mmol, 1.5 g | CC1=CC(=NC=C1)C=O | C7H7NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | tert-Butyl (E)-3-(4-methyl-2-pyridyl)-2-propenoate | 1.9 g, 70% | CC1=CC(=NC=C1)/C=C/C(=O)OC(C)(C)C | C13H17NO2
